US06316466B1
To a solution of 5-amino-4-[3-(carboxymethyloxy)benzoyl]-1-(4-fluorophenyl)pyrazole (0.5 g, 1.43 mmol) in tetrahydrofuran (10 ml) was added carbonyl diimidazole (0.3 g, 1.85 mmol) and the reaction mixture was heated at 60° C. After 1 h, methylamine (10 ml, 5 mmol, 0.5 M solution in tetrahydrofuran) was added and reaction was continued at 60° C. overnight. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was separated and washed with brine and dried over sodium sulfate. The organics were removed in vacuo and the residue was purified by flash chromatography (elution gradient: 20-30% acetone/hexane) to give 5-amino-1-(4-fluorophenyl)-4-[3-(methylaminocarbonylmethyloxy)benzoyl]pyrazole (0.25 g, mpt. 195.6-196.3° C.) as a solid.

reactant | 5-amino-4-[3-(carboxymethyloxy)benzoyl]-1-(4-fluorophenyl)pyrazole | 1.43 mmol, 0.5 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)OCC(=O)O)=O | C18H14FN3O4
reactant | carbonyl diimidazole | 1.85 mmol, 0.3 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | methylamine | 5 mmol, 0.5 M, 10 ml | CN | CH5N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-amino-1-(4-fluorophenyl)-4-[3-(methylaminocarbonylmethyloxy)benzoyl]pyrazole | 0.25 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)OCC(=O)NC)=O | C19H17FN4O3
